US05744471
7-Chloro-4-hydroxy-2-(4-methoxy-2-methylphenyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione choline salt.
To a stirred suspension of 7-chloro-4-hydroxy-2-(4-methoxy-2-methylphenyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione (400 mg, 1.03 mM) in methanol (4 mL) was added choline hydroxide (45% by weight in methanol, 295.6 uL, 1.03 mM). After brief sonication, all solids dissolved and the resulting solution was filtered through a Gelman Glass Acrodisc filter (0.45 um) along with an additional quantity of methanol (8 mL). The filtrate was concentrated to dryness and the residual oil was stirred with isopropanol (15 mL) and ethanol (8 mL) whereupon crystallization occurred. The solids were collected and dried under vacuum at 100° C. overnight to give the title compound (411 mg, 81%) as a yellow solid, mp 229°-230°C.

reactant | 7-chloro-4-hydroxy-2-(4-methoxy-2-methylphenyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione | 1.03 mM, 400 mg | ClC=1C=CC=2C(C3=C(NC2C1)C(=NN(C3=O)C3=C(C=C(C=C3)OC)C)O)=O | C19H14ClN3O4
reactant | choline hydroxide | 1.03 mM, 295.6 uL | [OH-].OCC[N+](C)(C)C
solvent | methanol | 4 mL | CO | CH4O
product | 7-Chloro-4-hydroxy-2-(4-methoxy-2-methylphenyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione choline salt | 411 mg, 81% | OCC[N+](C)(C)C.ClC=1C=CC=2C(C3=C(NC2C1)C(=NN(C3=O)C3=C(C=C(C=C3)OC)C)O)=O | InChI=1S/C19H14ClN3O4.C5H14NO/c1-9-7-11(27-2)4-6-14(9)23-19(26)15-16(18(25)22-23)21-13-8-10(20)3-5-12(13)17(15)24;1-6(2,3)4-5-7/h3-8H,1-2H3,(H,21,24)(H,22,25);7H,4-5H2,1-3H3/q;+1
